US07465815B2
4,6-Dimethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine
Using N-benzyl-4,6-dimethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine obtained in Reference Example 357, the title compound was synthesized in the same manner as in Reference Example 30. Yield 84%. Melting point: 127-128° C. (ethyl acetate-hexane).

reactant | N-benzyl-4,6-dimethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine | C(C1=CC=CC=C1)NC=1C(=CC2=C(C(CO2)C2=CC=CC=C2)C1C)C | C23H23NO
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 4,6-Dimethyl-3-phenyl-2,3-dihydro-1-benzofuran-5-amine | Yield 84% | CC1=C(C(=CC2=C1C(CO2)C2=CC=CC=C2)C)N | C16H17NO
